US08957102B2
(Step 10) 4-(5-bromopyrrolo[1,2-b]pyridazin-4-yloxy)-3-fluoroaniline
Methanol (1.2 mL), zinc powder (300 mg, 4.57=1) and ammonium chloride (130 mg, 2.47 mmol) were sequentially added to a solution of 5-bromo-4-(2-fluoro-4-nitrophenoxy)pyrrolo[1,2-b]pyridazine (67 mg, 0.19 mmol) in tetrahydrofuran (4.7 mL) and heated at 70° C. for 1.5 hours. Upon completion of the reaction, the resulting reaction mixture was cooled to room temperature and filtered by passing through a celite pad. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (1-6% ethyl acetate in dichloromethane) to give the target compound (57 mg, 0.178 mmol, 93% yield).

reactant | Methanol | 1.2 mL | CO | CH4O
reactant | ammonium chloride | 2.47 mmol, 130 mg | [Cl-].[NH4+]
reactant | 5-bromo-4-(2-fluoro-4-nitrophenoxy)pyrrolo[1,2-b]pyridazine | 0.19 mmol, 67 mg | BrC=1C=CN2N=CC=C(C21)OC2=C(C=C(C=C2)[N+](=O)[O-])F | C13H7BrFN3O3
solvent | tetrahydrofuran | 4.7 mL | O1CCCC1 | C4H8O
catalyst | zinc | 300 mg | [Zn] | Zn
product | 4-(5-bromopyrrolo[1,2-b]pyridazin-4-yloxy)-3-fluoroaniline | 0.178 mmol, 57 mg, 93% yield | BrC=1C=CN2N=CC=C(C21)OC2=C(C=C(N)C=C2)F | C13H9BrFN3O
